* source SOLAR-AUDIO-AMPLIFIER
R_R1         N00163 0  1k TC=0,0 
R_R2         0 N00163  1k TC=0,0 
V_V1         N00163 0 10Vdc
I_I1         0 N00439 DC 1Adc  
D_D1         N00163 N00439 D1N4007 
V_V2         N00875 0 1Vdc
R_R3         N00875 N00882  1k TC=0,0 
D_D2         N00882 0 D1N4007 
I_I2         0 0 DC 1Adc  
V_V3         N01314 0 1Vdc
D_D3         N01314 0 D1N4007 
